US04080335
2,2-Dimethyl-7-(2-dimethylaminoethoxy)-4-(1-naphthyl)chroman
To a stirred solution of 2,2-dimethyl-4-(1-naphthyl)-7-chromanol (7.48 g) in dry toluene (50 ml) was added sodium hydride (1.5 g, ~1.5 eq., 60% dispersion in oil) and the mixture was brought to reflux. To the resulting solution was added dropwise over 10 minutes a solution of 2-dimethylaminoethyl chloride (2.70 g, ~1.1 eq.) in dry toluene (10 ml) and the mixture was stirred under reflux for 2 hours, cooled, diluted with water and left to stand overnight. Next day the toluene layer was separated and evaporated in vacuo. The aqueous layer was extracted with ether and the extract used to dissolve the residue from the toluene evaporation. The organic layer was extracted with 5N hydrochloric acid (45, 35 and 20 ml respectively), the combined acid extract was basified and extracted into ether. After being dried the ether was removed in vacuo to give a yellow oil (6.2 g) which was chromatographed on alumina in 8% ether -- 92% petroleum ether (b.p. 60°-80°) to give the title compound (4.71 g, 51%) as a colourless oil. The hydrochloric salt had m.p. 178.5°-181.5° C.

reactant | 2,2-dimethyl-4-(1-naphthyl)-7-chromanol | 7.48 g | CC1(OC2=CC(=CC=C2C(C1)C1=CC=CC2=CC=CC=C12)O)C | C21H20O2
reactant | sodium hydride | 1.5 g, ~1.5 eq. | [H-].[Na+]
reactant | 2-dimethylaminoethyl chloride | 2.70 g, ~1.1 eq. | CN(CCCl)C | C4H10ClN
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2,2-Dimethyl-7-(2-dimethylaminoethoxy)-4-(1-naphthyl)chroman | 6.2 g | CC1(OC2=CC(=CC=C2C(C1)C1=CC=CC2=CC=CC=C12)OCCN(C)C)C | C25H29NO2
